US06235742B1
5-(2-methoxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-(2-methoxyphenyl)acetamide (750 mg, 0.00228 mol) was suspended in polyphosphoric acid (10 ml) and heated under nitrogen at 150° C. for 4 hours. On cooling, the solution was added to ice and the pH adjusted to 5 with aqueous 10N sodium hydroxide solution. The aqueous phase was extracted with dichloromethane (3×10 ml), the organic extracts combined, dried (MgSO4), filtered and concentrated under reduced pressure.

reactant | N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-(2-methoxyphenyl)acetamide | 0.00228 mol, 750 mg | C(N)(=O)C1=C(C(=NN1C)CCC)NC(CC1=C(C=CC=C1)OC)=O | C17H22N4O3
reactant | sodium hydroxide | 10N | [OH-].[Na+]
product | 5-(2-methoxybenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | COC1=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=CC=C1 | C17H20N4O2
